US08580781B2
Preparation of 3-(1-{3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]benzyl}-6-oxo-1,6-dihydropyridazin-3-yl)benzonitrile (“A287”)
149 mg (0.76 mmol) of 3-(6-oxo-1,6-dihydropyridazin-3-yl)benzonitrile and 256 mg (0.76 mmol) of {3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]phenyl}-methanol are suspended in 5 ml of DMF with 378 mg (1.13 mmol) of polymer-bound triphenylphosphine (about 3 mmol of triphenylphosphine per g) and shaken at room temperature for 30 min. 266 mg (1.134 mmol) of di-tert-butyl azodicarboxylate are added. The reaction mixture is shaken at room temperature for 2 h. A further 378 mg (1.13 mmol) of polymer-bound triphenylphosphine (about 3 mmol of triphenylphosphine per g) and 266 mg (1.134 mmol) of di-tert-butyl azodicarboxylate are added, and the reaction mixture is shaken at room temperature for 2 h. The reaction mixture is filtered, the filtrate is evaporated, and the residue is purified by means of column chromatography on silica gel; yield: 59 mg of “A287”; HPLC: Rt=2.38 min (method C); LC-MS: 464 (M+H).

reactant | 3-(6-oxo-1,6-dihydropyridazin-3-yl)benzonitrile | 0.76 mmol, 149 mg | O=C1C=CC(=NN1)C=1C=C(C#N)C=CC1 | C11H7N3O
reactant | {3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]phenyl}-methanol | 0.76 mmol, 256 mg | CN1CCN(CC1)C=1C=NC(=NC1)C=1C=C(C=CC1)CO | C16H20N4O
reactant | triphenylphosphine | 1.13 mmol, 378 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 1.134 mmol, 266 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 1.13 mmol, 378 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 1.134 mmol, 266 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(1-{3-[5-(4-methylpiperazin-1-yl)pyrimidin-2-yl]benzyl}-6-oxo-1,6-dihydropyridazin-3-yl)benzonitrile | CN1CCN(CC1)C=1C=NC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C=2C=C(C#N)C=CC2)C=CC1 | C27H25N7O
